US09120749B2
(6-(3-chloro-5-fluoro-4-hydroxyphenyl)-4-(6-(2-(dimethylamino)ethylamino)pyridin-3-ylamino)quinolin-3-yl)(cyclopropyl)methanone
Following general procedure D, (6-bromo-4-(6-(2-(dimethylamino)ethylamino)pyridin-3-ylamino)quinolin-3-yl)(cyclopropyl)methanone (75 mg, 0.17 mmol) was reacted with 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (69 mg, 0.25 mmol) to afford the desired product (6 mg, 7%) as a yellow-orange solid: 1H NMR (500 MHz, CD3OD+TFA-d) δ 9.40 (s, 1H), 8.25 (dd, J=8.8, 1.9 Hz, 1H), 8.22-8.15 (m, 2H), 8.03 (d, J=8.8 Hz, 1H), 7.69 (dd, J=9.1, 2.6 Hz, 1H), 7.27-7.18 (m, 2H), 6.95 (d, J=9.1 Hz, 1H), 3.87-3.81 (m, 2H), 3.46-3.39 (m, 2H), 2.97 (s, 6H), 2.89-2.78 (m, 1H), 1.28-1.17 (m, 4H); ESI MS m/z 520 [C28H27ClFN5O2+H]+; HPLC>99% (AUC), tR=10.34 min.

reactant | (6-bromo-4-(6-(2-(dimethylamino)ethylamino)pyridin-3-ylamino)quinolin-3-yl)(cyclopropyl)methanone | 0.17 mmol, 75 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC=1C=NC(=CC1)NCCN(C)C | C22H24BrN5O
reactant | 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.25 mmol, 69 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)F)O | C12H15BClFO3
product | (6-(3-chloro-5-fluoro-4-hydroxyphenyl)-4-(6-(2-(dimethylamino)ethylamino)pyridin-3-ylamino)quinolin-3-yl)(cyclopropyl)methanone | 6 mg, 7% | ClC=1C=C(C=C(C1O)F)C=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC=1C=NC(=CC1)NCCN(C)C | C28H27ClFN5O2
